US05204326
Preparation of Boc-Thr(Bzl)-Asp-OEt
To a suspension consisting of 2.3 g of H-Asp-OEt, 5.8 g of Boc-Thr(Bzl)-OSu in 20 ml of THF and 20 ml of DMF, was added 2 ml of triethylamine under an ice-cooling condition and the mixture was stirred for 1 hour so as to the pH of the reaction mixture was adjusting to about pH 7, and the reaction was continued for 36 hours. The reaction mixture was concentrated under reduced pressure and the residue thus obtained was acidified by adding 1N-hydrochloric acid, and extracted with ethyl acetate (80 ml×3 times). The organic layer was washed with water, then with a saturated sodium chloride aqueous solution and dried over anhydrous magnesium sulfate, The ethyl acetate extract was concentrated under reduced pressure and the residue thus obtained was crystallized and recrystallized from diethyl ether-petroleum ether. 5.59 Grams (yield: 86.6%) of the above-mentioned objective product was obtained.

reactant | H-Asp-OEt | 2.3 g | N[C@@H](CC(O)=O)C(=O)OCC | C6H11NO4
reactant | Boc-Thr(Bzl)-OSu | 5.8 g | N([C@@H]([C@H](OCC1=CC=CC=C1)C)C(=O)ON1C(=O)CCC1=O)C(=O)OC(C)(C)C | C20H26N2O7
reactant | triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | Cl | ClH
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | Boc-Thr(Bzl)-Asp-OEt | yield: 86.6% | N([C@@H]([C@H](OCC1=CC=CC=C1)C)C(=O)N[C@@H](CC(O)=O)C(=O)OCC)C(=O)OC(C)(C)C | C22H32N2O8
